US04515626
Production of 2-cyclopropyl-4-amino-6-methoxy-1,3,5-triazine (intermediate)
To a solution of 10.8 g of sodium methylate in 50 ml of methanol are added 28.9 g of 2-amino-4-(3-chloropropyl)-6-trichloromethyl-1,3,5-triazine, and the mixture is stirred at 60° C. for 80 minutes. The formed suspension is filtered under suction, diluted with 250 ml of water, and extracted 3 times with 200 ml of ethylene chloride each time. The organic phases are dried, filtered, and concentrated by evaporation. The oil which remains is purified through a silica gel column, the eluant used being methylene chloride/ether (3:1). The eluant is evaporated off to leave 2.1 g of the title product, which is recrystallised from ether/chloroform, m.p. 158°-159° C.

reactant | sodium methylate | 10.8 g | C[O-].[Na+]
reactant | 2-amino-4-(3-chloropropyl)-6-trichloromethyl-1,3,5-triazine | 28.9 g | NC1=NC(=NC(=N1)CCCCl)C(Cl)(Cl)Cl | C7H8Cl4N4
solvent | methanol | 50 ml | CO | CH4O
product | 2-cyclopropyl-4-amino-6-methoxy-1,3,5-triazine | 2.1 g | C1(CC1)C1=NC(=NC(=N1)N)OC | C7H10N4O
